US08791113B2
A suspension of 551 mg (1.5 mmol) 5-[2-(2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-[2,6]naphthyridin-1-ylamine in 10 ml DMF was treated with 108 mg (4.50 mmol) sodium hydride and stirred for 1 h at room temperature. Then 356 mg (2.25 mmol) dimethylaminoacetyl chloride hydrochloride were added and the reaction mixture was stirred for 18 h at room temperature. The reaction mixture was partitioned between water and dichloromethane. The organic phase was dried over sodium sulfate and evaporated. The residue was chromatographed on a silica gel column with ethyl acetate/methanol as eluent yielding 2-dimethylamino-N-{5-[2-(2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-[2,6]naphthyridin-1-yl}-acetamide as brown amorphous solid; HPLC/MS (B) 1.64 min, [M+H] 453.

reactant | 5-[2-(2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-[2,6]naphthyridin-1-ylamine | 1.5 mmol, 551 mg | FC1=C(C=CC=C1)C1=NC2=NC=CC=C2C(=C1)C1=C2C=CN=C(C2=CC=N1)N | C22H14FN5
reactant | sodium hydride | 4.50 mmol, 108 mg | [H-].[Na+]
reactant | dimethylaminoacetyl chloride hydrochloride | 2.25 mmol, 356 mg | Cl.CN(C)CC(=O)Cl
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-dimethylamino-N-{5-[2-(2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-[2,6]naphthyridin-1-yl}-acetamide | CN(CC(=O)NC1=NC=CC2=C(N=CC=C12)C1=CC(=NC2=NC=CC=C12)C1=C(C=CC=C1)F)C | C26H21FN6O
